US04166184
3,7-Dibenzamidoheptan-2-one (91.11 g, 0.258 mol) was hydrolysed in a sealed tube with concentrated HCl for 3 hours at 160° (oil bath). The solution was extracted with ether and evaporated to dryness to give 3-amino-7-benzamidoheptan-2-one hydrochloride (25.01 g, 34.2%).

reactant | 3,7-Dibenzamidoheptan-2-one | 0.258 mol, 91.11 g | C(C1=CC=CC=C1)(=O)NC(C(C)=O)CCCCNC(C1=CC=CC=C1)=O | C21H24N2O3
reactant | HCl | Cl | ClH
product | 3-amino-7-benzamidoheptan-2-one hydrochloride | 25.01 g, 34.2% | Cl.NC(C(C)=O)CCCCNC(C1=CC=CC=C1)=O | InChI=1S/C14H20N2O2.ClH/c1-11(17)13(15)9-5-6-10-16-14(18)12-7-3-2-4-8-12;/h2-4,7-8,13H,5-6,9-10,15H2,1H3,(H,16,18);1H
